US05728835
N-{2-[4-(4-Fluorobenzoyl)piperidino]ethyl}-4-methoxy-N-(2-methoxyphenyl)benzene sulfonamide
In an atmosphere of argon at room temperature, N-hydroxyethyl-4-methoxy-N-(2-methoxyphenyl)benzene sulfonamide (235 mg, 0.697 mmol) was dissolved in DMSO (3 ml) to which were subsequently added dropwise triethylamine (0.48 ml, 3.44 mmol) and sulfur trioxide-pyridine complex (558 mg, 3.44 mmol) which has been dissolved in DMSO (3 ml). After 20 minutes of stirring at the same temperature, ice water (10 ml) was added to the reaction solution, and the mixture was extracted with ethyl acetate and then washed with water and saturated brine. The resulting organic layer was dried on anhydrous magnesium sulfate, and the solvent was removed by evaporation to obtain a light yellow oily material. The thus obtained residue was dissolved in methanol (5 ml) to which were subsequently added 4-(4-fluorobenzoyl)piperidine (108 mg, 0.52 mmol) and molecular sieve 4A (200 mg) at room temperature. After 45 minutes of stirring at the same temperature, sodium cyanoborohydride (11 mg, 0.166 mmol) was added to the reaction mixture which was stirred for additional 30 minutes, followed by the addition of acetone (1 ml). The resulting reaction solution was diluted with ether (10 ml) and filtered through cerite, followed by the removal of the solvent by evaporation. The thus obtained colorless oily residue was dissolved in ether (10 ml) and extracted with 2N hydrochloric acid (10 ml). After removing the ether layer, the resulting reaction solution was adjusted to pH 9 to 10 with 10% sodium hydroxide aqueous solution and extracted with methylene chloride, the resulting organic layer was dried on potassium carbonate and then the solvent was removed by evaporation. Thereafter, the resulting yellow oily residue was purified by subjecting it to a silica gel column chromatography and PTLC (ether:hexane=7:1) to obtain 56.7 mg (15.4%) of the title compound in the form of colorless oil.

reactant | N-hydroxyethyl-4-methoxy-N-(2-methoxyphenyl)benzene sulfonamide | 0.697 mmol, 235 mg | OCCN(S(=O)(=O)C1=CC=C(C=C1)OC)C1=C(C=CC=C1)OC | C16H19NO5S
reactant | triethylamine | 3.44 mmol, 0.48 ml | C(C)N(CC)CC | C6H15N
reactant | 4-(4-fluorobenzoyl)piperidine | 0.52 mmol, 108 mg | FC1=CC=C(C(=O)C2CCNCC2)C=C1 | C12H14FNO
reactant | sodium cyanoborohydride | 0.166 mmol, 11 mg | C(#N)[BH3-].[Na+]
reactant | sodium hydroxide | [OH-].[Na+]
solvent | DMSO | 3 ml | CS(=O)C | C2H6OS
solvent | DMSO | 3 ml | CS(=O)C | C2H6OS
solvent | methanol | 5 ml | CO | CH4O
solvent | ether | 10 ml | CCOCC | C4H10O
solvent | acetone | 1 ml | CC(=O)C | C3H6O
product | N-{2-[4-(4-Fluorobenzoyl)piperidino]ethyl}-4-methoxy-N-(2-methoxyphenyl)benzene sulfonamide | 56.7 mg, 15.4% | FC1=CC=C(C(=O)C2CCN(CC2)CCN(S(=O)(=O)C2=CC=C(C=C2)OC)C2=C(C=CC=C2)OC)C=C1 | C28H31FN2O5S
